.title option reltol abstol space rc smoke
.option reltol 1e-4 abstol 1e-6
V1 in 0 PULSE(0 1m 1p 0.2p 0.2p 2p 4p)
R1 in out 10
C1 out 0 1p
.tran 0.5p 10p
.end
